US08334292B1
Step 1: Preparation of tert-butyl 3-(5-bromo-2-chloropyrimidin-4-yloxy)azetidine-1-carboxylate
To a solution of tert-butyl 3-hydroxyazetidine-1-carboxylate (4.1 g, 23.7 mmole) in anhydrous THF (100 mL) at 0° C. was added NaH (60% in mineral oil, 1.33 g, 33.2 mmol). The mixture was stirred at 0° C. for 4 5 min and then room temperature for 2 h until there was no hydrogen bubbles generated. This mixture was added slowly to a solution of 5-bromo-2,4-dichloropyrimidine (10.8 g, 47.4 mmol) in THF (100 mL) at −20° C., and then the reaction mixture was stirred at the same temperature for 2 h and then at room temperature for 3 h. The reaction was quenched with water and extracted with EtOAc. The organic layer was separated, dried (Na2SO4) and concentrated in vacuo. The residue was purified using flash chromatography (silica gel, 5-10% EtOAc in hexanes) to give the title compound (6 g, 70% yield) as a white solid. MS (ESI) m/z: Calc. 363.0 (M+). Found: 309.1 (M++2-tButyl).

reactant | tert-butyl 3-hydroxyazetidine-1-carboxylate | 23.7 mmole, 4.1 g | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
reactant | NaH | 33.2 mmol, 1.33 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-bromo-2,4-dichloropyrimidine | 47.4 mmol, 10.8 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(5-bromo-2-chloropyrimidin-4-yloxy)azetidine-1-carboxylate | 6 g, 70% yield | BrC=1C(=NC(=NC1)Cl)OC1CN(C1)C(=O)OC(C)(C)C | C12H15BrClN3O3
